US07348357B2
Methyl 3-amino-3-(3-chlorophenyl)propionate
Methanol (110 ml) is cooled to −10° C. and slowly admixed with thionyl chloride (12.0 g, 101.2 mmol). 3-Amino-3-(3-chlorophenyl)propionic acid (10.1 g, 50.6 mmol) is added and the mixture is stirred at room temperature overnight. The solution is concentrated to a high extent, under reduced pressure, and partitioned between ethyl acetate (100 ml) and saturated sodium hydrogen carbonate solution (200 ml). The pH of the aqueous phase is above 7. The aqueous phase is again extracted twice with ethyl acetate (100 ml). The combined ethyl acetate phases are dried over sodium sulfate, filtered and concentrated.

reactant | thionyl chloride | 101.2 mmol, 12.0 g | S(=O)(Cl)Cl | Cl2OS
reactant | 3-Amino-3-(3-chlorophenyl)propionic acid | 50.6 mmol, 10.1 g | NC(CC(=O)O)C1=CC(=CC=C1)Cl | C9H10ClNO2
reactant | Methanol | 110 ml | CO | CH4O
product | Methyl 3-amino-3-(3-chlorophenyl)propionate | NC(CC(=O)OC)C1=CC(=CC=C1)Cl | C10H12ClNO2
